US08580957B2
1,1-Dimethylethyl (2-{4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate (for a preparation see intermediate 55) (150 mg, 0.351 mmol), 3-iodopyridine (144 mg, 0.702 mmol), 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine (DavePhos) (27.6 mg, 0.070 mmol), tris(dibenzylideneacetone)dipalladium(0) (32.1 mg, 0.035 mmol) and sodium tert-butoxide (67.4 mg, 0.702 mmol) were dissolved in 1,4-dioxane (4 mL) and the resulting mixture was stirred at 100° C. under nitrogen for 20 h, at 120° C. for 16 h, then cooled to room temperature and concentrated in vacuovacuo. The residue was partitioned between DCM and a saturated NaHCO3 aqueous solution and the layers were separated using a hydrophobic frit. The organic phase was concentrated in vacuovacuo. Purification of the residue by SP4 using a 50 G silica cartridge (gradient:0.5 to 10% (2M NH3 in MeOH) in DCM) gave 1,1-dimethylethyl (2-{4-[(2S,4R)-1-acetyl-2-methyl-4-(3-pyridinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate (84 mg, 0.166 mmol, 47.4% yield).

reactant | 1,1-Dimethylethyl (2-{4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=NN(C1)CCN(C(OC(C)(C)C)=O)C)N)C | C23H33N5O3
reactant | 3-iodopyridine | 0.702 mmol, 144 mg | IC=1C=NC=CC1 | C5H4IN
reactant | 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine | 0.070 mmol, 27.6 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C1CCCCC1 | C26H36NP
reactant | sodium tert-butoxide | 0.702 mmol, 67.4 mg | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.035 mmol, 32.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1,1-dimethylethyl (2-{4-[(2S,4R)-1-acetyl-2-methyl-4-(3-pyridinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate | 0.166 mmol, 84 mg, 47.4% yield | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=NN(C1)CCN(C(OC(C)(C)C)=O)C)NC=1C=NC=CC1)C | C28H36N6O3
